US07332510B2
3-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-5-fluoro-pyridine
The title compound, MS: m/e=313.1 (M+H+), was prepared in accordance with the general method of example 3 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 3,5-difluoro-pyridine.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 3,5-difluoro-pyridine | FC=1C=NC=C(C1)F | C5H3F2N
product | 3-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-5-fluoro-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C=1C=NC=C(C1)F)C | C16H10ClFN4
